US07585885B2
6-Fluoro-5-(methanesulfonyl-methylamino)-N-methyl-N-propyl-isophthalamic acid ethyl ester
Dissolve 6-fluoro-5-methanesulfonylamino-N-methyl-N-propyl-isophthalamic acid ethyl ester (0.160 g, 0.444 mmol) in DMF (1.0 mL). Add potassium carbonate (44.4 mg, 0.32 mmol), iodomethane (41.5 μL, 0.67 mmol) and tetrabutylammonium bromide (14.3 mg, 0.04 mmol) to the solution. Stir the resulting slurry at room temperature for 16 h. Quench with saturated aqueous sodium sulfate solution (10 mL) and extract with ethyl acetate (3×30 mL). Combine the organic layers and dry (magnesium sulfate). Azeotrope the residue with xylenes to remove residual DMF. Purify (silica gel chromatography, eluting with 40:60 ethyl acetate:dichloromethane) to give the title compound as a solid (111 mg, 67%).

reactant | 6-fluoro-5-methanesulfonylamino-N-methyl-N-propyl-isophthalamic acid ethyl ester | 0.444 mmol, 0.160 g | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1F)NS(=O)(=O)C)=O | C15H21FN2O5S
reactant | potassium carbonate | 0.32 mmol, 44.4 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.67 mmol, 41.5 μL | IC | CH3I
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium bromide | 0.04 mmol, 14.3 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 6-Fluoro-5-(methanesulfonyl-methylamino)-N-methyl-N-propyl-isophthalamic acid ethyl ester | 111 mg, 67% | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1F)N(C)S(=O)(=O)C)=O | C16H23FN2O5S
